US04228100
A solution of 80% THPC (59.55 g, 0.25 mol) and 1,3-dimethylurea (88.12 g, 1 mol) was heated to reflux in an oil bath, held at reflux for 4 hrs., allowed to cool, and stripped to dryness in a rotary evaporator. The residue (130.67 g) was shaken with acetonitrile (100 ml) and filtered, giving 29.40 g (25.0%) of tetrakis(1,3-dimethylureidomethyl)phosphonium chloride (I, R=R'=CH3, R"=H, X=Cl) as a white, crystalline solid, mp 189°-190° C. dec. The remainder, a heavy oil, yielded no more product nor water even when subjected to azeotropic distillation with toluene and more 1,3-dimethylurea.

reactant | THPC | 0.25 mol, 59.55 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 1,3-dimethylurea | 1 mol, 88.12 g | CNC(=O)NC | C3H8N2O
product | tetrakis(1,3-dimethylureidomethyl)phosphonium chloride | 29.40 g, 25.0% | [Cl-].CN(C(=O)NC)C[P+](CN(C(=O)NC)C)(CN(C(=O)NC)C)CN(C(=O)NC)C | InChI=1S/C16H35N8O4P.ClH/c1-17-13(25)21(5)9-29(10-22(6)14(26)18-2,11-23(7)15(27)19-3)12-24(8)16(28)20-4;/h9-12H2,1-8H3,(H3-,17,18,19,20,25,26,27,28);1H
